US07601856B2
Following the procedure of Example 30, triethylamine (0.43 mL, 3.1 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.31 g, 1.6 mmol), N-hydroxybenzotriazole (0.22 g, 1.6 mmol), N-Boc-glycine (0.24 g, 1.4 mmol), and 7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan-2-ylamine (0.25 g, 1.2 mmol) provided tert-butyl [2-oxo-2-(7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylamino)ethyl]carbamate (0.20 g). MS (ESI) m/z 359 ([M+H]+); MS (ESI) m/z 357.2 ([M−H]−).

reactant | triethylamine | 3.1 mmol, 0.43 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.6 mmol, 0.31 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | N-hydroxybenzotriazole | 1.6 mmol, 0.22 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-Boc-glycine | 1.4 mmol, 0.24 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | 7,8,9,10-tetrahydro-6H-benzo[b]-cyclohepta[d]furan-2-ylamine | 1.2 mmol, 0.25 g | C1=C(C=CC=2OC3=C(C21)CCCCC3)N | C13H15NO
product | tert-butyl [2-oxo-2-(7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylamino)ethyl]carbamate | 0.20 g | O=C(CNC(OC(C)(C)C)=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1 | C20H26N2O4
